US04985582
Methyl magnesium iodide (4.0 ml, 3M solution in ether) was added to a solution of 2-benzyloxymethyl-2-benzylthiomethyl-pentanal (2.6 g.) in dry diethyl ether (50 ml.) at 0°. The mixture was refluxed, with stirring for 2 hours. The mixture was cooled and poured into 1N hydrochloric acid in ice. The aqueous mixture was extracted with diethyl ether. The ethereal extracts were washed with water, dried over anhydrous magnesium sulphate and evaporated in vacuo. The residue was chromatographed on silica, eluting with diethyl ether. 3-Benzyloxymethyl-3-benzylthiomethylhexan-2-ol was obtained as a colourless oil (0.7 g.).

reactant | Methyl magnesium iodide | 3M, 4.0 ml | C[Mg]I
reactant | 2-benzyloxymethyl-2-benzylthiomethyl-pentanal | 2.6 g | C(C1=CC=CC=C1)OCC(C=O)(CCC)CSCC1=CC=CC=C1 | C21H26O2S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 3-Benzyloxymethyl-3-benzylthiomethylhexan-2-ol | C(C1=CC=CC=C1)OCC(C(C)O)(CCC)CSCC1=CC=CC=C1 | C22H30O2S
